US06030975
3-Methoxy-2-(4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-yl-oxy)-3,3-diphenylpropionic acid
40 g (78.4 mmol) of benzyl 3-methoxy-2-(4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-yloxy)-3,3-diphenylpropionate were dissolved in 400 ml of ethyl acetate/methanol (4:1), about 500 mg of palladium on active carbon (10%) were added, and the mixture was exposed to a hydrogen atmosphere until no further gas was taken up. The catalyst was filtered off, the solution was evaporated, and the residue was crystallized from ether.

reactant | benzyl 3-methoxy-2-(4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-yloxy)-3,3-diphenylpropionate | 78.4 mmol, 40 g | COC(C(C(=O)OCC1=CC=CC=C1)OC1=NC2=C(C(=N1)OC)CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H30N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate methanol | 400 ml | C(C)(=O)OCC.CO
catalyst | palladium | about 500 mg | [Pd] | Pd
product | 3-Methoxy-2-(4-methoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-yl-oxy)-3,3-diphenylpropionic acid | COC(C(C(=O)O)OC1=NC2=C(C(=N1)OC)CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H24N2O5
